US05334740
4-Hydroxy-5-methoxycarbonyloxy-6-(methoxymethoxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole (275 mg) was dissolved in 10 ml of methylene chloride, and 200 mg of imidazole and 226 mg of tert-butyldimethylsilyl chloride were added, followed by stirring the mixture overnight at room temperature. The reaction mixture was diluted with diethyl ether, and washed with dilute hydrochloric acid, a sodium hydrogen carbonate aqueous solution and a sodium chloride aqueous solution in sequence. The organic layer was dried over anhydrous sodium sulfate, and concentration was effected under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 285 mg of 4-(tert-butyldimethylsilyloxy)-5- methoxycarbonyloxy-6-(methoxymethoxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole having the following property (yield 73%).

reactant | 4-Hydroxy-5-methoxycarbonyloxy-6-(methoxymethoxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole | 275 mg | OC1C(C(CC=2C1CON2)OCOC)OC(=O)OC | C11H17NO7
reactant | imidazole | 200 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 226 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(tert-butyldimethylsilyloxy)-5- methoxycarbonyloxy-6-(methoxymethoxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole | 285 mg, yield 73% | [Si](C)(C)(C(C)(C)C)OC1C(C(CC=2C1CON2)OCOC)OC(=O)OC | C17H31NO7Si
